US08309595B2
B) N′-[(3Z)-1-(cyclohexylmethyl)-6-methoxy-2-oxo-1,2-dihydro-3H-indol-3-ylidene]benzohydrazide
The title compound was prepared as a yellow solid, using 1-cyclohexylmethyl-6-methoxy-isatin and benzhydrazide according to the synthetic method E. NMR (CDCl3-d6): δ 1.01-1.09 (m, 2H), 1.16 to 1.26 (m, 3H), 1.68-1.86 (m, 6H), 3.56 (d, 2H), 6.44 (d, 1H), 6.64 (dd, 1H), 7.51 (t, 2H), 7.58 (t, 1H), 7.80 (d, 1H), 8.01 (d, 2H), 13.98 (br s, 1H).

reactant | 1-cyclohexylmethyl-6-methoxy-isatin | C1(CCCCC1)CN1C(=O)C(=O)C2=CC=C(C=C12)OC | C16H19NO3
reactant | benzhydrazide | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
product | N′-[(3Z)-1-(cyclohexylmethyl)-6-methoxy-2-oxo-1,2-dihydro-3H-indol-3-ylidene]benzohydrazide | C1(CCCCC1)CN1C(\C(\C2=CC=C(C=C12)OC)=N/NC(C1=CC=CC=C1)=O)=O | C23H25N3O3
